US08809371B2
Ethyl formate (16.1 ml) was added to a hexane (40 ml) suspension containing sodium hydride (60% in oil, 2.4 g) at room temperature, and then fluoroethyl acetate (3.86 ml) was added dropwise under ice cooling, followed by stirring at room temperature for 15 minutes. Ethanol (50 ml) was added to the reaction mixture, and then an ethanol (50 ml) solution containing 2-cyano-N-(quinolin-6-yl)acetamidine (4.20 g) was added dropwise, followed by stirring at 80° C. for 2 hours. The reaction mixture was cooled to room temperature. Then, solid matter was collected by filtration and washed with ethyl acetate, and a yellow solid of 5-fluoro-6-oxo-2-(quinolin-6-ylamino)-1,6-dihydropyridin-3-carbonitrile (3.71 g) was thus obtained.

reactant | Ethyl formate | 16.1 ml | C(=O)OCC | C3H6O2
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | fluoroethyl acetate | 3.86 ml | C(C)(=O)OCCF | C4H7FO2
reactant | 2-cyano-N-(quinolin-6-yl)acetamidine | 4.20 g | C(#N)CC(=N)NC=1C=C2C=CC=NC2=CC1 | C12H10N4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Ethanol | 50 ml | C(C)O | C2H6O
solvent | hexane | 40 ml | CCCCCC | C6H14
product | 5-fluoro-6-oxo-2-(quinolin-6-ylamino)-1,6-dihydropyridin-3-carbonitrile | 3.71 g | FC1=CC(=C(NC1=O)NC=1C=C2C=CC=NC2=CC1)C#N | C15H9FN4O
